US09029370B2
To a stirred solution of tert-butyl (RS)-2-hydroxy-2-(3-methyl-4-nitrophenyl)ethyl(2-hydroxyethyl)carbamate (6.55 g) and triethylamine (3.22 ml) in THF (50 ml) at 0-5° C. was added dropwise methanesulfonyl chloride (1.65 ml). The reaction mixture was then stirred at room temperature for 30 min to afford a yellow suspension. TLC analysis showed a small amount of starting material remaining and so further aliquots of triethylamine (0.5 ml) and methanesulfonyl chloride (0.2 ml) were added. The reaction mixture was stirred at room temperature for a further 20 min and was then filtered to remove triethylamine hydrochloride, washing the filter with THF (20 ml). The filtrate was cooled to 0-5° C. and potassium 2-methyl-2-butoxide (17.0 ml, 1.7 M solution in toluene) was added. The reaction mixture was stirred at room temperature for 30 min and then poured into EtOAc and extracted sequentially with water and with saturated brine. The organic layer was dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography (silica gel; gradient: 0% to 70% EtOAc in hexanes) to afford tert-butyl (RS)-2-(3-methyl-4-nitrophenyl)morpholine-4-carboxylate (2.21 g, 36%) as a yellow oil. MS (ISP): 223.1 ([M+H—O5H8O2]+).

reactant | tert-butyl (RS)-2-hydroxy-2-(3-methyl-4-nitrophenyl)ethyl(2-hydroxyethyl)carbamate | 6.55 g | OC(CN(C(OC(C)(C)C)=O)CCO)C1=CC(=C(C=C1)[N+](=O)[O-])C | C16H24N2O6
reactant | triethylamine | 3.22 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.65 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.2 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | tert-butyl (RS)-2-(3-methyl-4-nitrophenyl)morpholine-4-carboxylate | 2.21 g, 36% | CC=1C=C(C=CC1[N+](=O)[O-])C1CN(CCO1)C(=O)OC(C)(C)C | C16H22N2O5
